US08283354B2
A solution of 4-chloro-6-fluoro-2-(2-methoxyphenyl)quinazoline (3.0 g, 10.39 mmol) in CH2Cl2 (15 mL) was cooled to −78° C. To it was added a 1.0 M BBr3 solution in CH2Cl2 (52 mL, 52 mmol) dropwise. The reaction was allowed to warm to room temperature. It was neutralized with a saturated aqueous NaHCO3 solution, and the aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 5-20% CH2Cl2/hexanes gave 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (1.68 g, 60%). LC/MS: m/z 275.3 (M+H)+ at 3.39 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-chloro-6-fluoro-2-(2-methoxyphenyl)quinazoline | 10.39 mmol, 3.0 g | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)OC | C15H10ClFN2O
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 52 mmol, 52 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 1.68 g, 60% | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
